US09120822B2
Methanesulfonyl chloride (745 μL, 9.63 mmol, 3.0 eq) is added at room temperature to a stirred solution of 4-hydroxy-6-methoxy-3,4-dihydro-2H-1-thia-9-aza-phenanthrene-3-carboxylic acid ethyl ester (1.02 g, 3.21 mmol, 1.0 eq) in dichloromethane (10 mL), followed by triethylamine (2.23 mL, 16.05 mmol, 5.0 eq) and 4-(dimethylamino)pyridine (392 mg, 3.21 mmol, 1.0 eq). After 20 minutes stirring at room temperature, solvent is removed and the crude product is purified by column chromatography (silica gel, eluent: petroleum ether:ethyl acetate, 10:1, v/v) to afford 6-methoxy-2H-1-thia-9-aza-phenanthrene-3-carboxylic acid ethyl ester as a yellow solid (330 mg, 34% yield).

reactant | Methanesulfonyl chloride | 9.63 mmol, 745 μL, 3.0 eq | CS(=O)(=O)Cl | CH3ClO2S
reactant | 4-hydroxy-6-methoxy-3,4-dihydro-2H-1-thia-9-aza-phenanthrene-3-carboxylic acid ethyl ester | 3.21 mmol, 1.02 g, 1.0 eq | C(C)OC(=O)C1CSC=2C=NC3=CC=C(C=C3C2C1O)OC | C16H17NO4S
reactant | triethylamine | 16.05 mmol, 2.23 mL, 5.0 eq | C(C)N(CC)CC | C6H15N
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
catalyst | 4-(dimethylamino)pyridine | 3.21 mmol, 392 mg, 1.0 eq | CN(C1=CC=NC=C1)C | C7H10N2
product | 6-methoxy-2H-1-thia-9-aza-phenanthrene-3-carboxylic acid ethyl ester | 330 mg, 34% yield | C(C)OC(=O)C=1CSC=2C=NC3=CC=C(C=C3C2C1)OC | C16H15NO3S
